US08877772B2
Preparation of 5-bromo-3-(1H-indol-5-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (Intermediate B)
To a stirred suspension of 5-bromo-3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine (0.35 g, 0.73 mmol) and 1H-indol-5-ylboronic acid (0.14 mg, 0.88 mmol) in CH3CN (10 mL) was added 1 M Na2CO3 (10 mL) followed by bis(triphenylphosphine)palladium(II)dichloride (0.050 g, 0.071 mmol). The resulting mixture was stirred overnight at 60° C. After the mixture was evaporated to dryness in vacuo, it was dissolved in DMF (3 mL), absorbed onto Celite, and dried. The residue was purified via silica gel chromatography using CH2Cl2 as the eluent to obtain the title compound (0.26 g, 76%). 1H NMR (CDCl3, 300 MHz): δ 8.48 (d, J=2.1 Hz, 1H), 8.27 (bs, 1H), 8.26 (d, J=2.4 Hz, 1H), 8.08 (d, J=8.1 Hz), 7.85 (s, 1H), 7.81 (m, 1H), 7.50 (d, J=8.7 Hz, 1H), 7.37 (dd, J=1.8, 8.4 Hz), 7.30 (m, 3H), 6.63 (m, 1H), 2.39 (s, 3H); MS ESI (m/z): 466.2/468.2 (M+1)+, calc. 465.

reactant | 5-bromo-3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.73 mmol, 0.35 g | BrC=1C=C2C(=NC1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2 | C14H10BrIN2O2S
reactant | 1H-indol-5-ylboronic acid | 0.88 mmol, 0.14 mg | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | Na2CO3 | 1 M, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.071 mmol, 0.050 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 5-bromo-3-(1H-indol-5-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.26 g, 76% | BrC=1C=C2C(=NC1)N(C=C2C=2C=C1C=CNC1=CC2)S(=O)(=O)C2=CC=C(C)C=C2 | C22H16BrN3O2S
